datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:18][C:17]([H:19])([H:20])[H:21],29.288
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]=[C:12]([H:15])[H:16])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:13])[H:5].[C:10](=[C:11]=[C:12]([H:15])[H:16])[H:14],54.8104
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20],47.4466
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]([C:6]([H:17])([H:18])[H:19])[H:16])[H:15])([H:7])([H:8])[H:9],71.4627
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27]([H:30])([H:31])[H:32])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:26]([C:27]([H:30])([H:31])[H:32])([H:28])[H:29])[H:14])([H:12])[H:13],25.2714
[H:0].[c:1]1([H:17])[c:2]([H:18])[c:3]2[c:4]([H:19])[c:5]([H:20])[c:6]3[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]4[c:11]([H:24])[c:12]([H:25])[c:13]([c:14]1[H:26])[c:15]2[c:16]34>>[H:0][H:18].[c:1]1([H:17])[c:2][c:3]2[c:4]([H:19])[c:5]([H:20])[c:6]3[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]4[c:11]([H:24])[c:12]([H:25])[c:13]([c:14]1[H:26])[c:15]2[c:16]34,66.5158
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:17](=[C:18]([H:20])[H:21])[H:19])([H:9])[H:10],22.0915
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](#[C:14][C:15]=[C:16]([H:18])[H:19])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14]#[C:13][H:17])=[C:16]([H:18])[H:19],11.2968
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16])([H:4])[H:5],20.7945
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](#[C:11][C:12]([C:13]([H:16])([H:17])[H:18])[C:14]([H:19])([H:20])[H:21])[H:15]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]#[C:10][H:15])([C:13]([H:16])([H:17])[H:18])[C:14]([H:19])([H:20])[H:21])[H:6],32.7189
[N:0][N:1]([H:2])[H:3].[O:4]>>[H:2][O:4].[N:0]=[N:1][H:3],-3.72376
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22](=[C:23][C:24]([H:27])([H:28])[H:29])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:23](=[C:22]([H:25])[H:26])[C:24]([H:27])([H:28])[H:29])[H:12])([H:10])[H:11],-1.21336
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[H:19])([H:17])[H:18])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])[C:7]([H:17])([H:18])[C:8]1([C:9]([H:20])([H:21])[H:22])[H:19])[H:10],133.804
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[O:14][O:15][H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:13])[H:8])([H:5])([H:6])[H:7].[H:12][O:14][O:15][H:16],0.0
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16]([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])([H:23])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:16]([C:15]([H:23])([H:24])[H:25])([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])[H:7],29.2462
[C:0]([C:1]([C:2]([C:3]([O:4][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:15][H:16]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:14])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12][O:15][H:16],-9.585544
